US07846954B2
Synthesized according to General Procedure 2. To a stirred solution of tert-butyl-2,5-dihydro-1H-pyrrole-1-carboxylate (2.5 g, 14.8 mmol) in methanol (75 mL) under N2 at RT was added 4-chloro-3-methylbenzenediazonium tetrafluoroborate (5.3 g, 22.2 mmol), followed by the addition of palladium(II) acetate (336 mg, 1.50 mmol). The resulting solution was stirred at RT for 1 hour, diluted with ethyl acetate (375 mL) and partitioned with saturated aqueous NaHCO3 solution (150 mL). The organic layer was removed and washed with saturated aqueous NaHCO3 solution (150 mL), brine (150 mL), dried over MgSO4 and concentrated under reduced pressure. The residue was dried under vacuum to afford tert-butyl 4-(4-chloro-3-methylphenyl)-2-methoxypyrrolidine-1-carboxylate (4.25 g, 13.0 mmol, 88% yield) as a brown oil. The crude product was used without any further purification in the next reaction step. 1H-NMR (400 MHz, DMSO-d6) δ 7.35-7.26 (m, 2H), 7.16 (dd, J=1.9, 8.2 Hz, 1H), 5.20-5.05 (m, 1H), 3.70-3.63 (m, 1H), 3.54-3.45 (m, 1H), 3.28 (s, 3H), 3.21-3.10 (m, 1H), 2.30 (s, 3H), 2.10-1.98 (m, 2H) and 1.47 (s, 9H) ppm.

reactant | tert-butyl-2,5-dihydro-1H-pyrrole-1-carboxylate | 14.8 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
reactant | 4-chloro-3-methylbenzenediazonium tetrafluoroborate | 22.2 mmol, 5.3 g | F[B-](F)(F)F.ClC1=C(C=C(C=C1)[N+]#N)C
reactant | methanol | 75 mL | CO | CH4O
solvent | ethyl acetate | 375 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 1.50 mmol, 336 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-(4-chloro-3-methylphenyl)-2-methoxypyrrolidine-1-carboxylate | 13.0 mmol, 4.25 g, 88% yield | ClC1=C(C=C(C=C1)C1CC(N(C1)C(=O)OC(C)(C)C)OC)C | C17H24ClNO3
